US04668770
dibenamine;
phentolamine; phenoxybenzamine; prazosin; tolazoline;

reactant | phentolamine | CC=1C=CC(=CC1)N(CC2=NCCN2)C=3C=CC=C(C3)O | C17H19N3O
reactant | phenoxybenzamine | CC(COC=1C=CC=CC1)N(CCCl)CC=2C=CC=CC2 | C18H22ClNO
reactant | prazosin | COC=1C=C2C(=CC1OC)N=C(N=C2N)N3CCN(CC3)C(=O)C4=CC=CO4 | C19H21N5O4
reactant | tolazoline | C=1C=CC(=CC1)CC2=NCCN2 | C10H12N2
product | dibenamine | C1=CC=C(C=C1)CN(CCCl)CC2=CC=CC=C2 | C16H18ClN
